simulator lang=spectre 
global 0
parameters tempc={{tempc}} nA1={{nA1}} nB1={{nB1}} nA2={{nA2}} nB2={{nB2}} nA3={{nA3}} nB3={{nB3}} nA4={{nA4}} nB4={{nB4}} nA5={{nA5}} nB5={{nB5}} nA6={{nA6}} nB6={{nB6}} nA7={{nA7}} nB7={{nB7}} nA8={{nA8}} nB8={{nB8}} vdd={{vdd}} vcm={{vcm}} vbiasp0={{vbiasp0}} vbiasp2={{vbiasp2}} vbiasn2={{vbiasn2}} 
include "/homes/dkochar/migration_project/open-source/scs_files/PTM-MG/modelfiles/lstp/14nfet.pm" 

include "/homes/dkochar/migration_project/open-source/scs_files/PTM-MG/modelfiles/lstp/14pfet.pm"
//


//.GLOBAL gnd!
////+        vdd!

//.PIN gnd!
////+    vdd!


// single_ended_cascode_current_mirror_pfet Vbiasn2 Vbiasp0 Vbiasp2 Vinn Vinp Voutp
//.PININFO Vbiasn2:I Vbiasp0:I Vbiasp2:I Vinn:I Vinp:I Voutp:O
MM14 net025 net012 vdd! vdd! pfet l=nA1 nfin=nB1
MM13 net024 net012 vdd! vdd! pfet l=nA1 nfin=nB1
MM3 Voutp Vbiasp2 net025 vdd! pfet l=nA2 nfin=nB2
MM2 net012 Vbiasp2 net024 vdd! pfet l=nA2 nfin=nB2
MM7 net11 Vinn net14 net27 pfet l=nA3 nfin=nB3
MM6 net16 Vinp net14 net27 pfet l=nA3 nfin=nB3
MM5 net14 Vbiasp0 vdd! vdd! pfet l=nA8 nfin=nB8
MM12 net29 net11 gnd! gnd! nfet l=nA7 nfin=nB7
MM11 net32 net16 gnd! gnd! nfet l=nA7 nfin=nB7
MM10 net33 net11 gnd! gnd! nfet l=nA6 nfin=nB6
MM4 net26 net16 gnd! gnd! nfet l=nA6 nfin=nB6
MM1 Voutp Vbiasn2 net29 gnd! nfet l=nA4 nfin=nB4
MM0 net012 Vbiasn2 net32 gnd! nfet l=nA4 nfin=nB4
MM9 net11 Vbiasn2 net33 gnd! nfet l=nA5 nfin=nB5
MM8 net16 Vbiasn2 net26 gnd! nfet l=nA5 nfin=nB5

VS (gnd! 0) vsource dc=0 type=dc
V0 (vdd! gnd!) vsource dc=vdd type=dc
V2 (in gnd!) vsource type=dc mag=1
E1 (Vinp cm in gnd!) vcvs gain=.5
E0 (Vinn cm in gnd!) vcvs gain=-0.5
V1 (cm gnd!) vsource dc=vcm type=dc
VP (Vbiasp0 gnd!) vsource dc=vbiasp0 type=dc
VP2 (Vbiasp2 gnd!) vsource dc=vbiasp2 type=dc
VN2 (Vbiasn2 gnd!) vsource dc=vbiasn2 type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=tempc tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=1 stop=100G dec=10 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p  MM0:gm MM0:vgs MM0:vds MM0:ids MM0:region  MM1:gm MM1:vgs MM1:vds MM1:ids MM1:region  MM2:gm MM2:vgs MM2:vds MM2:ids MM2:region  MM3:gm MM3:vgs MM3:vds MM3:ids MM3:region  MM4:gm MM4:vgs MM4:vds MM4:ids MM4:region  MM5:gm MM5:vgs MM5:vds MM5:ids MM5:region  MM6:gm MM6:vgs MM6:vds MM6:ids MM6:region  MM7:gm MM7:vgs MM7:vds MM7:ids MM7:region  MM8:gm MM8:vgs MM8:vds MM8:ids MM8:region  MM9:gm MM9:vgs MM9:vds MM9:ids MM9:region  MM10:gm MM10:vgs MM10:vds MM10:ids MM10:region  MM11:gm MM11:vgs MM11:vds MM11:ids MM11:region  MM12:gm MM12:vgs MM12:vds MM12:ids MM12:region  MM13:gm MM13:vgs MM13:vds MM13:ids MM13:region  MM14:gm MM14:vgs MM14:vds MM14:ids MM14:region
saveOptions options save=allpub
